*$
*//-----------------------------------------------------------------------//
*//   Part		: HHXD350ARA470MF80G
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C
*//   Model	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT  HHXD350ARA470MF80G_20deg-C 1 2
C1 4 2 2.62e-05
C2 5 2 1.24e-05
C3 6 2 4.34e-06
R1 3 4 1.61e-02
R2 4 5 7.23e-02
R3 5 6 1.89e+00
L1 1 3 2.90e-09
.ENDS

*$